US08049016B2
Synthesis of 2-(4-(4-fluorobenzyl)-3-oxo-2,4-diazabicyclo[3.1.0]hexan-2-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a 25-mL two-neck round bottom flask under argon was charged with 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (0.10 g, 0.24 mmol) and tetrahydrofuran (5 mL). Diethylzinc in hexanes (0.35 mL of 1 M solution, 0.35 mmol) was added slowly with a syringe. The solution was stirred and maintained at ambient temperature while diiodomethane (0.10 g, 0.35 mmol) was added slowly with a syringe. The reaction mixture was stirred at 60° C. for 8 hours and cooled in an ice-water bath, followed by the addition of saturated aqueous ammonium chloride (5 mL). The mixture was extracted with ethyl acetate (80 mL) and washed with saturated aqueous ammonium chloride (2×8 mL), water (3×8 mL), dried over sodium sulfate and filtered. The filtrate was concentrated and purified by preparative thin layer chromatography eluted with dichloromethane/methanol (20/1) to afford the title compound in 7% yield (7 mg). 1H NMR (300 MHz, CDCl3) δ 8.57 (br, 2H), 7.66-7.63 (m, 1H), 7.35-7.26 (m, 2H), 7.20-7.18 (m, 1H), 7.06-7.00 (m, 2H), 6.31-6.29 (m, 1H), 4.87 (br s, 2H), 4.74 (br s, 2H), 3.00 (br s, 2H), 2.39 (s, 3H), 0.92-0.81 (m, 2H); MS (ES+) m/z 437.9 (M+1).

reactant | 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.24 mmol, 0.10 g | FC1=CC=C(CN2C(N(C=C2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C21H18FN5O2S
reactant | Diethylzinc | C(C)[Zn]CC
reactant | diiodomethane | 0.35 mmol, 0.10 g | ICI | CH2I2
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(4-(4-fluorobenzyl)-3-oxo-2,4-diazabicyclo[3.1.0]hexan-2-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 7% yield | FC1=CC=C(CN2C(N(C3CC23)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C22H20FN5O2S
